US09193693B2
Step 2. 3-(4-(Isoquinolin-3-yl)piperazin-1-yl)-2-phenylquinoxaline-6-carboxylic acid
Into a 50-mL round-bottom flask, was placed a solution of methyl 3-(4-(isoquinolin-3-yl)piperazin-1-yl)-2-phenylquinoxaline-6-carboxylate (216.6 mg, 0.46 mmol, 1.00 equiv) in methanol (15 mL). This was followed by the addition of a solution of sodium hydroxide (91.2 mg, 2.28 mmol, 5.00 equiv) in water (2 mL), which was added dropwise with stirring. The resulting solution was stirred overnight at 50° C. in an oil bath. The pH value of the solution was adjusted to 3-4 with 1N hydrochloric acid. The resulting mixture was concentrated under vacuum. The resulting mixture was washed with methanol. This resulted in 56 mg (26%) of 3-(4-(isoquinolin-3-yl)piperazin-1-yl)-2-phenylquinoxaline-6-carboxylic acid as a yellow solid.

reactant | methyl 3-(4-(isoquinolin-3-yl)piperazin-1-yl)-2-phenylquinoxaline-6-carboxylate | 0.46 mmol, 216.6 mg, 1.00 equiv | C1=NC(=CC2=CC=CC=C12)N1CCN(CC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C29H25N5O2
reactant | sodium hydroxide | 2.28 mmol, 91.2 mg, 5.00 equiv | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 15 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
product | 3-(4-(Isoquinolin-3-yl)piperazin-1-yl)-2-phenylquinoxaline-6-carboxylic acid | C1=NC(=CC2=CC=CC=C12)N1CCN(CC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)O)C1=CC=CC=C1 | C28H23N5O2
